US04394515
3,11-Dibromo-10,11-dihydrodibenzo[b,f]thiepin
10.5 G. 3-bromo-10,11-dihydro-11-hydroxydibenzo[b,f]thiepin and 25 cc. phosphorous tribromide are stirred for 2 hours, poured onto ice and extracted with ether. The ether is dried and evaporated to yield 10.65 g. of a brown oil which solifies on standing. The material is used as such for the next step.

reactant | 3-bromo-10,11-dihydro-11-hydroxydibenzo[b,f]thiepin | BrC=1C=CC2=C(SC3=C(CC2O)C=CC=C3)C1 | C14H11BrOS
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
product | 3,11-Dibromo-10,11-dihydrodibenzo[b,f]thiepin | BrC=1C=CC2=C(SC3=C(CC2Br)C=CC=C3)C1 | C14H10Br2S
